US05487893
By proceeding as indicated in the procedure of Preparation VII above, starting with 10 mmol of 3,5-di-t-butyl-4-trimethylsilyloxy-bromobenzene and 15 mmol of HCHO (in the protected form of H2C(OCH3)2), one obtains (yield: 45%) 3,5-di-t-butyl-4-trimethylsilyloxy-benzaldehyde, followed by the expected product, 3,5-di-t-butyl-4-hydroxybenzaldehyde.

reactant | 3,5-di-t-butyl-4-trimethylsilyloxy-bromobenzene | 10 mmol | C(C)(C)(C)C=1C=C(C=C(C1O[Si](C)(C)C)C(C)(C)C)Br | C17H29BrOSi
reactant | HCHO | 15 mmol | C=O | CH2O
product | 3,5-di-t-butyl-4-trimethylsilyloxy-benzaldehyde | yield: 45% | C(C)(C)(C)C=1C=C(C=O)C=C(C1O[Si](C)(C)C)C(C)(C)C | C18H30O2Si
